### PR TITLE
[Merged by Bors] - feat(FieldTheory/PurelyInseparable): definition and basic results of purely inseparable extensions

### PR DESCRIPTION
**Pull request by acmepjz**
Main defintions:

- `IsPurelyInseparable`: typeclass for purely inseparable field extension: an algebraic extension
  `E / F` is purely inseparable if and only if the minimal polynomial of every element of `E ∖ F`
  is not separable.

Main results (not exhaustive):

- `isPurelyInseparable_iff_mem_pow`: a field extension `E / F` of exponential characteristic `q` is
  purely inseparable if and only if for every element `x` of `E`, there exists a natural number `n`
  such that `x ^ (q ^ n)` is contained in `F`.

- `IsPurelyInseparable.trans`: if `E / F` and `K / E` are both purely inseparable extensions, then
  `K / F` is also purely inseparable.

- `isPurelyInseparable_iff_natSepDegree_eq_one`: `E / F` is purely inseparable if and only if for
  every element `x` of `E`, its minimal polynomial has separable degree one.

- `isPurelyInseparable_iff_minpoly_eq_X_pow_sub_C`: a field extension `E / F` of exponential
  characteristic `q` is purely inseparable if and only if for every element `x` of `E`, the minimal
  polynomial of `x` over `F` is of form `X ^ (q ^ n) - y` for some natural number `n` and some
  element `y` of `F`.

- `isPurelyInseparable_iff_minpoly_eq_X_sub_C_pow`: a field extension `E / F` of exponential
  characteristic `q` is purely inseparable if and only if for every element `x` of `E`, the minimal
  polynomial of `x` over `F` is of form `(X - x) ^ (q ^ n)` for some natural number `n`.

- `isPurelyInseparable_iff_finSepDegree_eq_one`: an algebraic extension is purely inseparable
  if and only if it has (finite) separable degree one.

  **TODO:** remove the algebraic assumption. (will be in later PR)

- `IsPurelyInseparable.normal`: a purely inseparable extension is normal.

- `separableClosure.isPurelyInseparable`: if `E / F` is algebraic, then `E` is purely inseparable
  over the (relative) separable closure of `E / F`.

- `IsPurelyInseparable.injective_comp_algebraMap`: if `E / F` is purely inseparable, then for any
  reduced ring `L`, the map `(E →+* L) → (F →+* L)` induced by `algebraMap F E` is injective.
  In other words, a purely inseparable field extension is an epimorphism in the category of fields.

- `isPurelyInseparable_adjoin_iff_mem_pow`: if `F` is of exponential characteristic `q`, then
  `F(S) / F` is a purely inseparable extension if and only if for any `x ∈ S`, `x ^ (q ^ n)` is
  contained in `F` for some `n : ℕ`.

- `Field.finSepDegree_eq`: if `E / F` is algebraic, then the `Field.finSepDegree F E` is equal to
  `Field.sepDegree F E` as a natural number. This means that the cardinality of `Field.Emb F E`
  and the degree of `(separableClosure F E) / F` are both finite or infinite, and when they are
  finite, they coincide.

TODO: (will be in later PR)

- `IsPurelyInseparable.of_injective_comp_algebraMap`: if `L` is an algebraically closed field
  containing `E`, such that the map `(E →+* L) → (F →+* L)` induced by `algebraMap F E` is
  injective, then `E / F` is purely inseparable. In other words, epimorphisms in the category of
  fields must be purely inseparable extensions. Need to use the fact that `Emb F E` is infintie
  when `E / F` is (purely) transcendental.

- Prove that the (infinite) inseparable degree are multiplicative; linearly disjoint argument is needed.

---

- [x] depends on: #9522
- [x] depends on: #9524
- [x] depends on: #9525
- [x] depends on: #9573
- [x] depends on: #9709
- [x] depends on: #9710
- [x] depends on: #9790
- [x] depends on: #9797
- [x] depends on: #9799
- [x] depends on: #10016
- [x] depends on: #10017

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 1]
```diff
@@ -191,6 +199,13 @@ class IsSepClosure [Algebra k K] : Prop where
 instance IsSepClosure.self_of_isSepClosed [IsSepClosed k] : IsSepClosure k k :=
   ⟨by assumption, isSeparable_self k⟩
 
+-- TODO:
+/- If `k` is perfect, `K` is a separable closure of `k`,
+then it is also an algebraic closure of `k`. -/
+-- instance IsSepClosure.isAlgClosure_of_perfectField [IsSepClosure k K] [PerfectField k] :
+--     IsAlgClosure k K :=
+--   sorry
+
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsSepClosed.lean:208]: maybe use `proof_wanted`?

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 2]
```diff
@@ -0,0 +1,571 @@
...
+    L = separableClosure F E ↔ IsSeparable F L ∧ IsPurelyInseparable L E :=
+  ⟨by rintro rfl; exact ⟨separableClosure.isSeparable F E,
+    separableClosure.isPurelyInseparable F E halg⟩, fun ⟨_, _⟩ ↦ le_antisymm
+      (le_separableClosure F E L) (separableClosure_le F E L)⟩
+
+-- TODO: move to suitable file
+theorem _root_.iterate_frobenius_inj (R : Type*) [CommRing R] [IsReduced R] (p : ℕ) [Fact p.Prime]
+    [CharP R p] (n : ℕ) : Function.Injective (frobenius R p)^[n] := by
+  induction' n with n ih
+  exacts [Function.injective_id, ih.comp (frobenius_inj R p)]
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:370]: I think you can use `(frobenius_inj R p).iterate n`?

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 3]
```diff
@@ -0,0 +1,571 @@
...
+    finSepDegree_adjoin_simple_eq_natSepDegree _ _ hx.isAlgebraic]
+
+/-- If `F` is of exponential characteristic `q`, then `F⟮x⟯ / F` is a purely inseparable extension
+if and only if `x ^ (q ^ n)` is contained in `F` for some `n : ℕ`. -/
+theorem isPurelyInseparable_adjoin_simple_iff_mem_pow (q : ℕ) [hF : ExpChar F q] {x : E} :
+    IsPurelyInseparable F F⟮x⟯ ↔ ∃ n : ℕ, x ^ q ^ n ∈ (algebraMap F E).range := by
+  simp_rw [isPurelyInseparable_adjoin_simple_iff_natSepDegree_eq_one,
+    minpoly.natSepDegree_eq_one_iff_mem_pow q]
+
+private theorem isPurelyInseparable_adjoin_finset_of_mem_pow (q : ℕ) [hF : ExpChar F q]
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:428]: Why is this private? I see no harm in it being public.

Comment (erdOne) [reply Mathlib/FieldTheory/PurelyInseparable.lean:428]: Same for the other private lemmas below.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 4]
```diff
@@ -0,0 +1,571 @@
...
+
+variable (F : Type u) (E : Type v) [Field F] [Field E] [Algebra F E]
+
+variable (K : Type w) [Field K] [Algebra F K]
+
+section IsPurelyInseparable
+
+/-- Typeclass for purely inseparable field extension: an algebraic extension `E / F` is purely
+inseparable if and only if the minimal polynomial of every element of `E ∖ F` is not separable. -/
+class IsPurelyInseparable : Prop where
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:114]: But the auto-generated one has different signature than `isPurelyInseparable_iff` below, and it is called **I**sPurelyInseparable_iff.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:428]: Because it is a special case of `isPurelyInseparable_adjoin_iff_mem_pow.2`. Same as the following private lemmas.

File: Mathlib/FieldTheory/IsSepClosed.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean:208]: But it complains about every variable being unused. Will it trigger "warning-as-error" error?

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean:114]: The difference with the auto-generated one is not distributing Forall over And, right?
#9378 should have fixed the capitalization issue, but I agree the manual lemma is better here.

File: Mathlib/FieldTheory/IsSepClosed.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean]: It turns out that this result cannot be proved inside this file. 😅 Separable degree argument is required.

Comment (alreadydone) [reply Mathlib/FieldTheory/IsSepClosed.lean]: Why? I think combining [IsAlgClosed.of_exists_root](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/IsAlgClosed/Basic.html#IsAlgClosed.of_exists_root) with the definition [PerfectField](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Perfect.html#PerfectField) gives a proof.

Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean]: > Why? I think combining [IsAlgClosed.of_exists_root](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/IsAlgClosed/Basic.html#IsAlgClosed.of_exists_root) with the definition [PerfectField](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Perfect.html#PerfectField) gives a proof.

No, these two results in their current form can't solve this problem. Two ways to fix it:
- Prove that if `K / k` is algebraic, `k` is perfect, then `K` is also perfect. This seems to require separable degree argument.
- Prove a modified version of `IsAlgClosed.of_exists_root` which states that if `K / k` is algebraic, any monic irreducible polynomial over `k` has a root in `K`, then `K` is algebraically closed (in fact an algebraic closure of `k`).

I think both of them are important results, but not in mathlib yet.

Comment (alreadydone) [reply Mathlib/FieldTheory/IsSepClosed.lean]: Oh I see, I think I read `PerfectField k` as `PerfectField K`. For your first option, you just need to know that every irreducible polynomial in K[X] divides some irreducible polynomial in k[X]. You can do this by adjoining a root of the first polynomial to K and take its minpoly over k.

Comment (alreadydone) [reply Mathlib/FieldTheory/IsSepClosed.lean]: The stronger version of your second option is also true, see Theorem 2 in https://kconrad.math.uconn.edu/blurbs/galoistheory/algclosure.pdf (would be nice to have it in mathlib!)

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 5]
```diff
@@ -191,6 +198,19 @@ class IsSepClosure [Algebra k K] : Prop where
 instance IsSepClosure.self_of_isSepClosed [IsSepClosed k] : IsSepClosure k k :=
   ⟨by assumption, isSeparable_self k⟩
 
+-- TODO: depends on `Algebra.IsAlgebraic.perfectField`
+/-- If `k` is perfect, `K` is a separable closure of `k`,
+then it is also an algebraic closure of `k`. -/
+proof_wanted IsSepClosure.isAlgClosure_of_perfectField
+    [Algebra k K] [IsSepClosure k K] [PerfectField k] : IsAlgClosure k K
```
Comment (alreadydone) [inline Mathlib/FieldTheory/IsSepClosed.lean:205]: We should add `[PerfectField K] [IsSepClosed K] : IsAlgClosed K` too. That need not mention `k` but once combined with `Algebra.IsAlgebraic.perfectField` gives this immediately.

Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean:205]: I already added this, it's called `isAlgClosed_of_perfectField` at https://github.com/leanprover-community/mathlib4/pull/9488/files#diff-65948e34f88316c627865217c5250797373887972cda16a040e4b044067aac93R99

File: Mathlib/FieldTheory/IsSepClosed.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/IsSepClosed.lean]: > Oh I see, I think I read `PerfectField k` as `PerfectField K`. For your first option, you just need to know that every irreducible polynomial in K[X] divides some irreducible polynomial in k[X]. You can do this by adjoining a root of the first polynomial to K and take its minpoly over k (we know it's integral over k by [isIntegral_trans](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/IntegralClosure.html#isIntegral_trans)).

Thank you very much, it works!



> The stronger version of your second option is also true, see Theorem 2 in https://kconrad.math.uconn.edu/blurbs/galoistheory/algclosure.pdf, but it takes one page and a half to prove; would be nice to have it in mathlib!

Let me add a TODO to `IsAlgClosed`. I think there should also be a `IsSepClosed` version?

File: Mathlib/FieldTheory/Perfect.lean [hunk 6]
```diff
@@ -218,3 +218,13 @@ instance toPerfectRing (p : ℕ) [hp : Fact p.Prime] [CharP K p] : PerfectRing K
...
+
+/-- If `L / K` is an algebraic extension, `K` is a perfect field, then `L / K` is separable. -/
+theorem Algebra.IsAlgebraic.isSeparable_of_perfectField {K L : Type*} [Field K] [Field L]
+    [Algebra K L] [PerfectField K] (halg : Algebra.IsAlgebraic K L) : IsSeparable K L :=
+  ⟨fun x ↦ PerfectField.separable_of_irreducible <| minpoly.irreducible (halg x).isIntegral⟩
+
+-- TODO:
+/-- If `L / K` is an algebraic extension, `K` is a perfect field, then so is `L`. -/
+proof_wanted Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L]
+    [Algebra K L] [PerfectField K] (halg : Algebra.IsAlgebraic K L) : PerfectField L
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Perfect.lean:230]: I think we have the same result with PerfectField replaced by IsSepClosed ...

Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean:230]: Not yet, at least loogle can't find it. We only have the result that separably closed field doesn't have non-trivial separable extension.

Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean]: Yeah, sorry for bad wording, I meant it should be true, not that we have it in mathlib. I think the following proof won't be too difficult: assume `IsSepClosed K`, we have `IsPurelyInseparable K (AlgebraicClosure L)` by `isPurelyInseparable_of_isSepClosed` in this PR. By `IsPurelyInseparable.tower_top` we deduce `IsPurelyInseparable L (AlgebraicClosure L)`, which should be equivalent to `separableClosure L (AlgebraicClosure L) = ⊥`, but this is missing from this PR. Finally we use [IsSepClosed.separableClosure_eq_bot_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SeparableClosure.html#IsSepClosed.separableClosure_eq_bot_iff) to conclude that `IsSepClosed L`.
(We could combine the last steps to a lemma that says `IsSepClosed K` iff `IsPurelyInseparable K (AlgebraicClosure K)`, and dually, `PerfectField K` iff `IsSeparable K (AlgebraicClosure K)`.

Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean]: I have another proof in mind, which uses multiplicativity of (finite) separable degree.

Let me look at your suggestions later.

Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean]: Actually, I think your definition of `IsPurelyInseparable L E` is defeq to `separableClosure L E ≤ ⊥` ...

Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean]: > ... `IsPurelyInseparable L (AlgebraicClosure L)`, which should be equivalent to `separableClosure L (AlgebraicClosure L) = ⊥`, but this is missing from this PR.

It is `separableClosure.eq_bot_iff` at line 182.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/FieldTheory/PurelyInseparable.lean:445]: You can still keep it public and/or add a pointer to `isPurelyInseparable_adjoin_iff_mem_pow` in the docstring.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 7]
```diff
@@ -0,0 +1,579 @@
...
+  set L := adjoin E (S : Set K)
+  haveI := isSeparable_tower_top_of_isSeparable E L K
+  let i : S →+* L := {
+    toFun := fun x ↦ ⟨x.1, adjoin.mono E _ _ (Set.singleton_subset_iff.2 x.2)
+      (mem_adjoin_simple_self E x.1)⟩
+    map_one' := rfl
+    map_mul' := fun x y ↦ rfl
+    map_zero' := rfl
+    map_add' := fun x y ↦ rfl
+  }
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:549]:
```suggestion
  let i : S →+* L := Subsemiring.inclusion fun x hx ↦ subset_adjoin E (S : Set K) hx
```

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 8]
```diff
@@ -0,0 +1,579 @@
...
+  have h := congr_arg IntermediateField.lift (eq_adjoin_of_isPurelyInseparable' F E S)
+  rw [lift_top, lift_adjoin] at h
+  haveI : IsScalarTower F S K := IsScalarTower.of_algebraMap_eq (congrFun rfl)
+  rw [← h, eq_map_of_separableClosure_eq_bot F (separableClosure_eq_bot E K)]
+  rfl
+
+/-- If `K / E / F` is a field extension tower, such that `E / F` is algebraic, then
+`separableClosure E K` is equal to `E` adjoin `separableClosure F K`. -/
+theorem eq_adjoin_of_isAlgebraic (halg : Algebra.IsAlgebraic F E) :
+    separableClosure E K = adjoin E (separableClosure F K) := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:573]: I think the equality should be flipped.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 9]
```diff
@@ -0,0 +1,579 @@
...
+  change IsPurelyInseparable F L at hL
+  obtain ⟨n, y, h⟩ := h x hx
+  haveI := expChar_of_injective_algebraMap (algebraMap F L).injective q
+  replace h := (isPurelyInseparable_adjoin_simple_iff_mem_pow L E q).2 ⟨n, (algebraMap F L) y, h⟩
+  exact IsPurelyInseparable.trans F L L⟮x⟯
+
+/-- If `F` is of exponential characteristic `q`, then `F(S) / F` is a purely inseparable extension
+if and only if for any `x ∈ S`, `x ^ (q ^ n)` is contained in `F` for some `n : ℕ`. -/
+theorem isPurelyInseparable_adjoin_iff_mem_pow (q : ℕ) [hF : ExpChar F q] {S : Set E} :
+    IsPurelyInseparable F (adjoin F S) ↔ ∀ x ∈ S, ∃ n : ℕ, x ^ q ^ n ∈ (algebraMap F E).range := by
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:459]: Do we have `IsPurelyInseparable F E ↔ ∀ x : E, ∃ n, x ^ q ^ n ∈ (algebraMap F E).range`?

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 10]
```diff
@@ -0,0 +1,579 @@
...
+  ⟨fun _ ↦ e.isPurelyInseparable, fun _ ↦ e.symm.isPurelyInseparable⟩
+
+/-- If `E / F` is an algebraic extension, `F` is separably closed,
+then `E / F` is purely inseparable. -/
+theorem Algebra.IsAlgebraic.isPurelyInseparable_of_isSepClosed (halg : Algebra.IsAlgebraic F E)
+    [IsSepClosed F] : IsPurelyInseparable F E :=
+  ⟨halg.isIntegral, fun x h ↦ minpoly.mem_range_of_degree_eq_one F x <|
+    IsSepClosed.degree_eq_one_of_irreducible F (minpoly.irreducible (halg x).isIntegral) h⟩
+
+variable (F E K)
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:155]: I think some lemmas below should have implicit variables, for example `eq_bot_of_isPurelyInseparable_of_isSeparable` or `isPurelyInseparable_iff_natSepDegree_eq_one `

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 11]
```diff
@@ -34,6 +34,13 @@ polynomial in `k` splits.
 
 algebraic closure, algebraically closed
 
+## TODO
+
+- Porve that if `K / k` is algebraic, any monic irreducible polynomial over `k` splits in `K`, then
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean:39]:
```suggestion
- Prove that if `K / k` is algebraic, any monic irreducible polynomial over `k` splits in `K`, then
```

**Review by erdOne — COMMENTED** [review]
I think the reviewing process will be faster if you can split everything except the new file into a new PR.

File: Mathlib/FieldTheory/IsSepClosed.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/FieldTheory/IsSepClosed.lean]: It seems like you can do `set_option linter.unusedVariables false in` (as per Yaël on zulip).

**Comment by acmepjz** [comment]
> I think the reviewing process will be faster if you can split everything except the new file into a new PR.

OK, will do it later.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 9 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:459]: Yes, it's `isPurelyInseparable_iff_mem_pow`.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 12]
```diff
@@ -0,0 +1,579 @@
...
+    simpa only [h] using mem_separableClosure_iff.2 hs⟩,
+      fun _ ↦ eq_bot_of_isPurelyInseparable F E⟩
+
+instance isPurelyInseparable_self : IsPurelyInseparable F F :=
+  ⟨fun _ ↦ isIntegral_algebraMap, fun x _ ↦ ⟨x, rfl⟩⟩
+
+/-- A field extension `E / F` of exponential characteristic `q` is purely inseparable
+if and only if for every element `x` of `E`, there exists a natural number `n` such that
+`x ^ (q ^ n)` is contained in `F`. -/
+theorem isPurelyInseparable_iff_mem_pow (q : ℕ) [hF : ExpChar F q] :
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:194]: I think we should have the forward direction as its own lemma with `IsPurelyInseparable` as a typeclass variable

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: Add as `IsPurelyInseparable.mem_pow`.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 10 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:155]: Done.

**Comment by alreadydone** [comment]
> Prove that the (infinite) separable degree multiply by the (infinite) inseparable degree is equal
to the (infinite) field extension degree. Need to use the linearly disjoint argument.

I don't understand this TODO. This is already in mathlib as [Field.sepDegree_mul_insepDegree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SeparableClosure.html#Field.sepDegree_mul_insepDegree) and the proof is just `rank_mul_rank`. I think you meant to say multiplicativity. As discussed on Zulip, the multiplicativity of sepDegree can readily be done but that of insepDegree will need linear disjointness.

**Comment by acmepjz** [comment]
> > Prove that the (infinite) separable degree multiply by the (infinite) inseparable degree is equal
> > to the (infinite) field extension degree. Need to use the linearly disjoint argument.
> 
> I don't understand this TODO. This is already in mathlib as [Field.sepDegree_mul_insepDegree](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SeparableClosure.html#Field.sepDegree_mul_insepDegree) and the proof is just `rank_mul_rank`. I think you meant to say multiplicativity.

Sorry, you're right.

> As discussed on Zulip, the multiplicativity of sepDegree can readily be done but that of insepDegree will need linear disjointness.

Oh, let me check it later.

File: Mathlib/FieldTheory/Perfect.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean]: > We could combine the last steps to a lemma that says `IsSepClosed K` iff `IsPurelyInseparable K (AlgebraicClosure K)`,

I'll add `isSepClosed_iff_isPurelyInseparable_algebraicClosure` later.

> and dually, `PerfectField K` iff `IsSeparable K (AlgebraicClosure K)`.)

For this it seems that I need to use the fact that if `E / F` is separable, `E` is perfect, then `F` is also perfect, which is not in mathlib yet.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 13]
```diff
@@ -0,0 +1,644 @@
...
+
+namespace separableClosure
+
+variable [Algebra E K] [IsScalarTower F E K]
+
+/-- If `K / E / F` is a field extension tower, such that `E / F` is purely inseparable and `K / E`
+is separable, then `E` adjoin `separableClosure F K` is equal to `K`. It is a special case of
+`separableClosure.adjoin_eq_of_isAlgebraic`, and is an intermediate result used to prove it. -/
+lemma adjoin_eq_of_isPurelyInseparable' [IsPurelyInseparable F E] [IsSeparable E K] :
+    adjoin E (separableClosure F K : Set K) = ⊤ := top_unique fun x _ ↦ by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:608]: p.227 of Lang's Algebra introduces the notion of a distinguished class of extensions, of which the classes of algebraic, separable, and purely inseparable extensions are all examples. Condition (1) is basically `trans` and `tower_top/bot` lemmas, and Condition (3) is `sup` lemmas (follows from (1) and (2)). Condition (2) says if K and L are intermediate fields of E/F and if K/F is in the class, then KL/L is also in the class. In Lean this can be generalized to say that if E/L/F is a tower and K is an intermediate field of E/F such that K/F is in the class, then `adjoin L K` over `L` is in the class. This type of lemmas seem to be missing from mathlib at this moment and it looks like they may be useful in places like this.

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:608]: Looks good. In algebraic geometry there are also such distinguished classes I think.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 14]
```diff
@@ -265,6 +265,15 @@ noncomputable instance (priority := 100) perfectRing (p : ℕ) [Fact p.Prime] [C
   PerfectRing.ofSurjective k p fun _ => IsAlgClosed.exists_pow_nat_eq _ <| NeZero.pos p
 #align is_alg_closed.perfect_ring IsAlgClosed.perfectRing
 
+noncomputable instance (priority := 100) perfectField [IsAlgClosed k] : PerfectField k := by
+  obtain ⟨p, hchar⟩ := CharP.exists k
+  by_cases hp : p = 0
+  · haveI := (CharP.charP_zero_iff_charZero k).1 (hp ▸ hchar)
+    exact PerfectField.ofCharZero k
+  haveI := NeZero.mk hp
+  haveI := CharP.char_is_prime_of_pos k p
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:274]: I think there is a `charZero_or_charP` but I can't find it. Maybe there is no such result yet.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: > Why is the name not `pow_mem` but `mem_pow`?

Sorry, will rename it soon.
 
> Also, I feel that it would make things easier if you first define the relative perfect closure in the following way:
> 
> ```lean
> def perfectClosure : IntermediateField F E :=
>   let ⟨q, _inst⟩ := Classical.indefiniteDescription _ (ExpChar.exists F)
>   { carrier := {x : E | ∃ n : ℕ, x ^ q ^ n ∈ (algebraMap F E).range}
>     zero_mem' := ⟨0, by rw [pow_zero, pow_one]; exact zero_mem _⟩
>     one_mem' := ⟨0, by rw [pow_zero, pow_one]; exact one_mem _⟩
>     add_mem' := by
>       rintro x y ⟨n, hx⟩ ⟨m, hy⟩
>       use n + m
>       have := expChar_of_injective_algebraMap (algebraMap F E).injective q
>       rw [add_pow_expChar_pow, pow_add, pow_mul, mul_comm (q ^ n), pow_mul]
>       exact add_mem (pow_mem hx _) (pow_mem hy _)
>     mul_mem' := by
>       rintro x y ⟨n, hx⟩ ⟨m, hy⟩
>       use n + m
>       rw [mul_pow, pow_add, pow_mul, mul_comm (q ^ n), pow_mul]
>       exact mul_mem (pow_mem hx _) (pow_mem hy _)
>     inv_mem' := by
>       rintro x ⟨n, hx⟩
>       use n; rw [inv_pow]
>       apply inv_mem (id hx : _ ∈ (⊥ : IntermediateField F E))
>     algebraMap_mem' := fun x ↦ ⟨0, by rw [pow_zero, pow_one]; exact ⟨x, rfl⟩⟩ }
> ```
> 
> and rephrase this lemma as `IsPurelyInseparable F E ↔ perfectClosure F E = ⊤`. For an intermediate field `L`, you can deduce that `IsPurelyInseparable F L ↔ L ≤ perfectClosure F E`. This should make many theorems trivial (starting from `isPurelyInseparable_adjoin_finset_of_mem_pow`), and you could follow similar arguments for the "dual" (separable) case once you know `separableClosure` is a field.

Currently the `perfectClosure` is defined in a downsteram file. Let me study later to see that if it can be moved into this file.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 13 above)
Comment (erdOne) [reply Mathlib/FieldTheory/PurelyInseparable.lean:608]: We have something similar. See for example `AlgebraicGeometry/Morphisms/Basic.lean` or `CategoryTheory/MorphismProperty.lean`

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 12 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: Your definition of perfectClosure (as the iSup of purely inseparable subextensions) requires IsPurelyInseparable, while mine doesn't. I originally thought yours is necessary because mine depends on the characteristic, until I realized yesterday that we can just choose an expChar, so we don't need to carry (q) [expChar F q] around ... we need to prove expChar is unique though.

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: > Your definition of perfectClosure (as the iSup of purely inseparable subextensions) requires IsPurelyInseparable, while mine doesn't.

Yes. These two are equivalent definitions I think.

> I originally thought yours is necessary because mine depends on the characteristic, until I realized yesterday that we can just choose an expChar, so we don't need to carry (q) [expChar F q] around ...

Another idea is to use `ringExpChar R := if ringChar R = 0 then 1 else ringChar R` instead of the `q` in the definition of relative perfect closure, and in the proof of `add_mem'`, etc., we can show that if `ExpChar F q` then `q` is equal to `ringExpChar R`.

> we need to prove expChar is unique though.

For `CharP` there is [CharP.exists_unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CharP/Basic.html#CharP.exists_unique). I didn't realize the importance of it, so I haven't added the corresponding version for `ExpChar`.

Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: or just use `max (ringChar R) 1` ...

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:281]: Oh, it's [CharP.char_is_prime_or_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CharP/Basic.html#CharP.char_is_prime_or_zero).

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:281]: It still doesn't give you a Fact instance directly, and you need to combine it with `CharP.exists`. I think it's worthwhile to add the lemma `CharZero k ∨ ∃ p : ℕ, Fact p.Prime ∧ CharP k p` because you get all the instances in place with `obtain h | ⟨p, _, _⟩ :=` in one stretch.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: `ringChar.charP` is an instance which states `CharP R (ringChar R)` so I assume that `(a+b)^ringChar = a^ringChar + b^ringChar` can be rewritten automatically as usual.

Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean:197]: That's good to know! I guess we could add ringExpChar as an abbrev and make ExpChar R (ringExpChar R) an instance as well.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:281]: Added `CharP.exists'` in #9573.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 15]
```diff
@@ -0,0 +1,999 @@
...
+  have halg : IsIntegral F x := by_contra fun h' ↦ by
+    simp only [minpoly.eq_zero h', natSepDegree_zero, zero_ne_one] at hdeg
+  refine ⟨halg, fun hsep ↦ ?_⟩
+  rw [hsep.natSepDegree_eq_natDegree, ← adjoin.finrank halg,
+    IntermediateField.finrank_eq_one_iff] at hdeg
+  simpa only [hdeg] using mem_adjoin_simple_self F x
+
+theorem IsPurelyInseparable.pow_mem (q : ℕ) [ExpChar F q] [IsPurelyInseparable F E] (x : E) :
+    ∃ n : ℕ, x ^ q ^ n ∈ (algebraMap F E).range :=
+  (isPurelyInseparable_iff_pow_mem F q).1 (by assumption) x
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:231]: `‹_›` is interchangeable with `by assumption`, I believe. If you like it please replace everywhere.
```suggestion
  (isPurelyInseparable_iff_pow_mem F q).1 ‹_› x
```

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 16]
```diff
@@ -0,0 +1,999 @@
...
+  obtain ⟨x, h⟩ : ∃ (x : E), i x ≠ i' x := by_contra fun h' ↦ by
+    simp only [ne_eq, not_exists, not_not] at h'
+    exact h (AlgHom.ext h')
+  have hr (i : E →ₐ[F] (AlgebraicClosure E)) : i x ∈ ((minpoly F x).aroots _).toFinset := by
+    rw [Multiset.mem_toFinset, mem_aroots]
+    exact ⟨minpoly.ne_zero (isIntegral F x),
+      (minpoly.algHom_eq i i.injective x) ▸ minpoly.aeval F (i x)⟩
+  have := Finset.one_lt_card_iff.2 ⟨i x, i' x, hr i, hr i', h⟩
+  rw [← natSepDegree_eq_of_isAlgClosed] at this
+  linarith only [this, IsPurelyInseparable.natSepDegree_eq_one F x]
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:466]: golf using `injective_comp_algebraMap` below:
```suggestion
instance [IsPurelyInseparable F E] (L : Type w) [CommRing L] [IsReduced L] [Algebra F L] :
    Subsingleton (E →ₐ[F] L) where
  allEq f g := AlgHom.coe_ringHom_injective <|
    IsPurelyInseparable.injective_comp_algebraMap F E L (by simp_rw [AlgHom.comp_algebraMap])

instance [IsPurelyInseparable F E] : Subsingleton (Emb F E) := by rw [Emb]; infer_instance

/-- A purely inseparable extension has (finite) separable degree one. -/
theorem IsPurelyInseparable.finSepDegree_eq_one [IsPurelyInseparable F E] :
    finSepDegree F E = 1 := by
  rw [finSepDegree, Nat.card_eq_one_iff_unique]; constructor <;> infer_instance
```

**Review by alreadydone — COMMENTED** [review]
Went through about one half of the PR:

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 15 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:231]: Thanks. I just can't remember how to type `‹` 😂

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 17]
```diff
@@ -0,0 +1,987 @@
...
+section perfectClosure
+
+/-- The (relative) perfect closure of `E / F`, consists of the elements `x` of `E` such that there
+exists a natural number `n` such that `x ^ (ringExpChar F) ^ n` is contained in `F`, where
+`ringExpChar F` is the exponential characteristic of `F`. It is also the maximal purely inseparable
+subextension of `E / F` (`le_perfectClosure_iff`). -/
+def perfectClosure : IntermediateField F E where
+  carrier := {x : E | ∃ n : ℕ, x ^ (ringExpChar F) ^ n ∈ (algebraMap F E).range}
+  zero_mem' := ⟨0, by rw [pow_zero, pow_one]; exact zero_mem _⟩
+  one_mem' := ⟨0, by rw [pow_zero, pow_one]; exact one_mem _⟩
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: Thanks. Let me see if it compiles. Perhaps the same lines can also be removed in the definition of `separableClosure`?

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 18]
```diff
@@ -0,0 +1,987 @@
...
+  letI : Module (separableClosure F E) L := Algebra.toModule
+  letI : SMul (separableClosure F E) L := Algebra.toSMul
+  haveI : IsScalarTower (separableClosure F E) L E := IsScalarTower.of_algebraMap_eq (congrFun rfl)
+  exact IsPurelyInseparable.tower_top (separableClosure F E) L E
+
+/-- If `E / F` is algebraic, then an intermediate field of `E / F` is equal to the (relative)
+separable closure of `E / F` if and only if it is separable over `F`, and `E` is purely inseparable
+over it. -/
+theorem eq_separableClosure_iff (halg : Algebra.IsAlgebraic F E) (L : IntermediateField F E) :
+    L = separableClosure F E ↔ IsSeparable F L ∧ IsPurelyInseparable L E :=
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:542]: Added `eq_separableClosure`.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 19]
```diff
@@ -0,0 +1,989 @@
...
+  simp_rw [map_pow, ← iterate_frobenius] at heq
+  exact (frobenius_inj L q).iterate n heq
+
+instance instSubsingletonAlgHomOfIsPurelyInseparable [IsPurelyInseparable F E] (L : Type w)
+    [CommRing L] [IsReduced L] [Algebra F L] : Subsingleton (E →ₐ[F] L) where
+  allEq f g := AlgHom.coe_ringHom_injective <|
+    IsPurelyInseparable.injective_comp_algebraMap F E L (by simp_rw [AlgHom.comp_algebraMap])
+
+instance instSubsingletonEmbOfIsPurelyInseparable [IsPurelyInseparable F E] :
+    Subsingleton (Emb F E) := by rw [Emb]; infer_instance
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:465]: I realize that we should upgrade [Field.instNonemptyEmb](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/SeparableDegree.html#Field.instNonemptyEmb) to `Inhabited` and then this instance could be `Unique (Emb F E)` and we could use [Nat.card_unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Cardinal/Finite.html#Nat.card_unique) in the next proof.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: That's a good idea too!

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 15 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: It's `\f<`. Not as hard as ⟮, right? 😄

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 20]
```diff
@@ -0,0 +1,989 @@
...
+
+## Tags
+
+separable degree, degree, separable closure, purely inseparable
+
+## TODO
+
+- `IsPurelyInseparable.of_injective_comp_algebraMap`: if `L` is an algebraically closed field
+  containing `E`, such that the map `(E →+* L) → (F →+* L)` induced by `algebraMap F E` is
+  injective, then `E / F` is purely inseparable. In other words, epimorphisms in the category of
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:103]:
```suggestion
  injective, then `E / F` is purely inseparable. In particular, epimorphisms in the category of
```

**Comment by acmepjz** [comment]
> This PR is pretty big. Is it possible to split it?

I think it's possible but maybe not that easy; let's discuss it then. I think basically 1/3 of it is the proof of the tower law of the (infinite) separable degree.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 21]
```diff
@@ -0,0 +1,995 @@
...
+
+end IntermediateField
+
+variable {F E} in
+/-- If `E / F` is a separable extension of exponential characteristic `q`, if `{ u_i }` is a family
+of elements of `E` which `F`-linearly spans `E`, then `{ u_i ^ (q ^ n) }` also `F`-linearly spans
+`E` for any natural number `n`. -/
+theorem Field.span_map_pow_expChar_pow_eq_top_of_isSeparable (q : ℕ) [hF : ExpChar F q] (n : ℕ)
+    [IsSeparable F E] {ι : Type*} {v : ι → E} (h : Submodule.span F (Set.range v) = ⊤) :
+    Submodule.span F (Set.range ((fun x ↦ x ^ q ^ n) ∘ v)) = ⊤ := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/PurelyInseparable.lean:652]: I've opened an easy PR #10017 and a refactor PR #10016 with the main purpose of golfing this proof.

Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: The golfe proof is [here](https://github.com/leanprover-community/mathlib4/commit/3f93a2df3021f115939d0c9394c3efa6d0c31183).

Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: I have [more golfs](https://github.com/leanprover-community/mathlib4/compare/e5eb62dff7bb69f587ba86add3fe9f59a7405cf7...purely_insep_merge) at that branch but other than that I think this is ready to go!

**Review by alreadydone — APPROVED** [review]

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 21 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: Would you also merge my branch?

Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: > Would you also merge my branch?

Sure, thank you very much. Would you like to push your changes to this PR by yourself?

Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean]: Done! Hopefully CI is happy ...

**Comment by acmepjz** [comment]
I also have this
```lean
/-- If `E` is a perfect field of characteristic `p`, then the (relative) perfect closure
`perfectClosure F E` is perfect. -/
instance perfectClosure.perfectRing (p : ℕ) [ExpChar F p] [ExpChar E p]
    [PerfectRing E p] : PerfectRing (perfectClosure F E) p := .ofSurjective _ p fun x ↦ by
```
but maybe let's leave it for next PR?

**Comment by alreadydone** [comment]
As you like!

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 22]
```diff
@@ -0,0 +1,935 @@
...
+  simp_rw [isPurelyInseparable_iff_natSepDegree_eq_one,
+    minpoly.natSepDegree_eq_one_iff_eq_X_sub_C_pow q]
+
+theorem IsPurelyInseparable.minpoly_eq_X_sub_C_pow (q : ℕ) [ExpChar F q] [IsPurelyInseparable F E]
+    (x : E) : ∃ n : ℕ, (minpoly F x).map (algebraMap F E) = (X - C x) ^ q ^ n :=
+  (isPurelyInseparable_iff_minpoly_eq_X_sub_C_pow F q).1 ‹_› x
+
+variable (E)
+
+-- TODO: remove `halg` assumption
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/PurelyInseparable.lean:437]: What are we missing for this TODO?

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 22 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/PurelyInseparable.lean:437]: I think we need some result that for a transcendental extension `E / F`, the `finSepDegree` cannot be one, namely, there are at least two `F`-embeddings from `E` to the algebraic closure of `E`. Maybe @alreadydone has some preliminary works on it.

Comment (riccardobrasca) [reply Mathlib/FieldTheory/PurelyInseparable.lean:439]: Let's keep this for another PR, has this one is already pretty long.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/Algebra/CharP/Reduced.lean [hunk 23]
```diff
@@ -39,12 +47,9 @@ variable {R : Type*} [CommRing R] [IsReduced R]
...
     x ^ (p ^ k * m) = 1 ↔ x ^ m = 1 := by
-  induction' k with k hk
-  · rw [pow_zero, one_mul]
-  · refine' ⟨fun h => _, fun h => _⟩
-    · rw [pow_succ, mul_assoc, pow_mul', ← frobenius_def, ← frobenius_one p] at h
-      exact hk.1 (frobenius_inj R p h)
-    · rw [pow_mul', h, one_pow]
+  rw [pow_mul']
+  convert ← (iterateFrobenius_inj R p k).eq_iff
+  apply map_one
```
Comment (alreadydone) [inline Mathlib/Algebra/CharP/Reduced.lean:52]: @riccardobrasca I moved one new lemma and two golfs from [#9311](https://github.com/leanprover-community/mathlib4/pull/9311/files#diff-06dd56536ac06af05c958087a090cbf331a3b2c3e753dd508dabd361e8d7b197) to this PR to streamline [this proof](https://github.com/leanprover-community/mathlib4/pull/9488/commits/e0c5313ee966ce67ddc8ff2d9cd8e6f6fc82baa4#diff-1183eb4a8c4f60106973f5393ebfa817666cb122fe0a95ccdf55c94a4880b965L458-R464) below.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 22 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/PurelyInseparable.lean:439]: Mainly we need a version of [IsTranscendenceBasis.isAlgebraic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/AlgebraicIndependent.html#IsTranscendenceBasis.isAlgebraic) with IntermediateField.adjoin rather than Algebra.adjoin, and we need to construct different embeddings of these IntermediateField.adjoin (which are purely transcendental extensions, and for this purpose IsTranscendenceBasis can be relaxed to AlgebraicIndependent.
If we want to count the number of embeddings, [even more work need to be done](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Separability.20degree.3F/near/411585334).
